US07538123B2
(3) 8-Methoxy-4-methyl-7-(3-methyl-2-butenyl)-3,4-dihydro-2H-benz[f][1,4]oxazepin-5-one
601 mg of 8-methoxy-7-(3-methyl-2-butenyl)-3,4-dihydro-2H-benz[f][1,4]oxazepin-5-one was dissolved in 15 ml of N,N-dimethylformamide. Thereafter, 120 mg of sodium hydride was added to the reaction solution. Ten minutes later, 215 μl of methyl iodide was added to the reaction solution, and the obtained mixture was then stirred at room temperature. After completion of the reaction, a saturated ammonium chloride aqueous solution and ethyl acetate were added to the reaction solution, so as to separate an organic layer. The organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 513 mg of the subject compound.

reactant | 8-methoxy-7-(3-methyl-2-butenyl)-3,4-dihydro-2H-benz[f][1,4]oxazepin-5-one | 601 mg | COC1=CC2=C(C(NCCO2)=O)C=C1CC=C(C)C | C15H19NO3
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | methyl iodide | 215 μl | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Methoxy-4-methyl-7-(3-methyl-2-butenyl)-3,4-dihydro-2H-benz[f][1,4]oxazepin-5-one | 513 mg | COC1=CC2=C(C(N(CCO2)C)=O)C=C1CC=C(C)C | C16H21NO3
